US04730005
Aluminum chloride (0.23 moles) was added in portions over 7 minutes to a mixture of butylbenzene (0.10 moles) and succinic anhydride (0.11 moles) in ethylene chloride (100 ml), cooled to about 13° C. Thirty minutes later the reaction mixture was poured into ice cold 3 N hydrochloric acid (250 ml) and then extracted with ethyl acetate (2×100 ml). The extract was washed with saturated sodium chloride (100 ml), dried over magnesium sulfate and evaporated to give 4-(4-butylphenyl)-4-oxobutanoic acid (mp 107°-111.5° C.). A mixture of this acid (31.63 mmoles), sulfuric acid (0.5 ml) and 10% palladium on charcoal (755 mg) in ethyl acetate (150 ml) was shaken under 50 psi hydrogen for about 15 minutes to yield the reduced product, 4-(4-butylphenyl)butanoic acid (mp 56°-58° C.). A solution of this acid (27.05 mmoles) in sieve dried tetrahydrofuran (25 ml) was reduced with ice cold diborane in tetrahydrofuran (30 mmoles) for about 1.5 hours to give 4-(4-butylphenyl)butanol as an oil. To an ice cold solution of the butanol (27 mmoles) and carbon tetrabromide (32.56 mmoles) in methylene chloride (50 ml) was added triphenylphosphine (32.75 mmoles) in methylene chloride (50 ml) over 15 minutes. The reaction mixture was stirred for 45 minutes and then the volatiles were evaporated. The resulting oil was triturated with hexane (2×100 ml), filtered, and the filtrate evaporated and chromatographed to leave 4-(4-butylphenyl)butyl bromide as an oil.

reactant | Aluminum chloride | 0.23 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | butylbenzene | 0.10 moles | C(CCC)C1=CC=CC=C1 | C10H14
reactant | succinic anhydride | 0.11 moles | C1(CCC(=O)O1)=O | C4H4O3
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 4-(4-butylphenyl)-4-oxobutanoic acid | C(CCC)C1=CC=C(C=C1)C(CCC(=O)O)=O | C14H18O3
